2144-11-22 09:12:00 Physician Attending Progress Note
Chief Complaint: fever
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   54 yo m with AML dx'd [**2142**], day 509 s/p MUDS
   Has been hospitalized for cellulitis, discharged late [**Month (only) 1033**] on LVQ
   Yesterday, woke up with chills/malaise with fever to 100.8. Daughter
   recently [**Name2 (NI) 1757**]
   In ED, T101, P104
   Became hypoxic requiring NRB also hypotensive with SBP 80's-- fluid
   responsive (3 liters)
   Started on Vanc/Zosyn, azithro once
   CT: small subsegmental PE-- heparin started
   24 Hour Events:
   *Continued fluids
   *Weaned oxygen
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Cefepime
   Rash;
   Cipro (Oral) (Ciprofloxacin Hcl)
   Rash;
   Last dose of Antibiotics:
   Voriconazole - [**2144-11-21**] 10:43 PM
   Vancomycin - [**2144-11-22**] 04:42 AM
   Piperacillin/Tazobactam (Zosyn) - [**2144-11-22**] 05:42 AM
   Acyclovir - [**2144-11-22**] 08:00 AM
   Azithromycin - [**2144-11-22**] 08:00 AM
   Infusions:
   Heparin Sodium - 1,350 units/hour
   Other ICU medications:
   Other medications:
   prednisone 10 mg qd, 300 mg neurontin QHS, folace, acyclovir 400mg,
   bactrim, testosterone patch, CYC 50mg q12h, oxycontin, azithromycin
   Changes to medical and family history:
   AML with GVH (skin/liver)
   Hyperlipidemia
   Kidney stones
   BCC
   multiple back surgeries
   Cervical spine fusion
   Chronic neuropathic pain
   Hx pericardial effusion
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-11-22**] 09:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.6
C (97.9
   HR: 108 (71 - 108) bpm
   BP: 122/72(83) {100/59(69) - 128/83(90)} mmHg
   RR: 19 (11 - 19) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 105 kg (admission): 105 kg
   Height: 72 Inch
             Total In:
                                                                    561 mL
                                                                  1,386 mL
   PO:
                                                                    200 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    361 mL
                                                                  1,286 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,370 mL
   Urine:
   1,370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    561 mL
                                                                     16 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 93%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   expiratory at bases, Rhonchorous: ), upper airway congested
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, Rash: erythematous over torso, No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   147
   1.2
   34
   3.5
        [image002.jpg]
   Other labs: PT / PTT / INR:17.2/150.0/1.6
   Fluid analysis / Other labs: urine legionealla negative
   Imaging: CXR: engorged pulm vasculature compared to ; ?develop. of
   infiltrate (vs. pulm edema) around left base
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 PULMONARY EMBOLISM (PE), ACUTE
   54 yo male with AML s/p MUDS admitted with fevers/hypoxia.
   1. For presumptive PNA/bronchitis with hypoxia , on Vanc/Zosyn, also
   Azithro/ and will f/u sputum/blood cultures drawn and check nasal swab
   for flu.
    Continue supplemental oxygen, add nebs. Wheezing may partly represent
   volume overload- will dc IVF
   2. PE: On heparin gtt, check LENI's and also assess RV function with
   Echo
   3. AML: Continue cyclosporine and will check levels
   *On voriconazole, bactrim, acyclovir as maintenance regimen
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2144-11-21**] 09:13 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2144-11-23 07:45:00 Physician Resident Progress Note
Chief Complaint: chest pain
   24 Hour Events:
   - CT Chest official read
   1. Left lower lobe segmental pulmonary embolism.
   2. Wedge-shaped peripheral consolidation in the superior segment of the
   right
   lower lobe. Differential considerations include infectious or
   inflammatory
   processes; atelectasis is less likely.
   3. Thoracic vertebral compression fracture, unchanged in comparison to
   - Cyclosporine 177 (wnl)
   - Continue Vanc/Zosyn/Azithro
   - Heparin gtt- PTT supratherapeutic, so heparin gtt held and then
   restarted at 425 units/hr
   - Bilateral LENIs - deferred until Mon
   - TTE - deferred until Mon
   - RUQ U/s (chr abd pain) - deferred until Mon
   - ECG - wavy baseline, but wnl
   - BMT reccs - continue azithro/zosyn/vanco, heparin, cyclosporn,
   prednisone, ppx with bactrim/vori/acyclovir
   Allergies:
   Cefepime
   Rash;
   Cipro (Oral) (Ciprofloxacin Hcl)
   Rash;
   Last dose of Antibiotics:
   Voriconazole - [**2144-11-21**] 10:43 PM
   Azithromycin - [**2144-11-22**] 08:00 AM
   Vancomycin - [**2144-11-22**] 08:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2144-11-23**] 12:00 AM
   Acyclovir - [**2144-11-23**] 12:00 AM
   Infusions:
   Heparin Sodium - 925 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2144-11-22**] 08:00 AM
   Heparin Sodium - [**2144-11-23**] 05:23 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Reports [**3-26**] substernal lower chest pain that radiates across chest. +
   sore throat, cough with white sputum. Denies abd pain, f/c.
   Flowsheet Data as of  [**2144-11-23**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 102 (84 - 113) bpm
   BP: 135/75(90) {103/59(70) - 153/86(99)} mmHg
   RR: 16 (11 - 21) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 105 kg (admission): 105 kg
   Height: 72 Inch
             Total In:
                                                                  1,820 mL
                                                                    221 mL
   PO:
                                                                    100 mL
             TF:
   IVF:
                                                                  1,720 mL
                                                                    221 mL
   Blood products:
   Total out:
                                                                  2,870 mL
                                                                    700 mL
   Urine:
                                                                  2,870 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,050 mL
                                                                   -479 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 96%
   ABG: ///30/
   Labs / Radiology
   105 K/uL
   11.6 g/dL
   102 mg/dL
   1.3 mg/dL
   30 mEq/L
   4.2 mEq/L
   12 mg/dL
   101 mEq/L
   138 mEq/L
   35.5 %
   4.5 K/uL
        [image002.jpg]
                             [**2144-11-22**]  07:10 AM
                             [**2144-11-23**]  03:54 AM
   WBC
   3.5
   4.5
   Hct
   34.8
   35.5
   Plt
   117
   105
   Cr
   1.2
   1.3
   Glucose
   99
   102
   Other labs: PT / PTT / INR:13.8/38.6/1.2, Ca++:8.7 mg/dL, Mg++:1.9
   mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   54 yo M with AML s/p allo-BMT with chronic GVHD of liver, skin now with
   fever and pulmonary embolism.
   .
   1. Fever: Given the patient's sick contacts it is possible that the
   patient has a viral URI/ bronchitis causing fever as well as
   potentially fever secondary to pulmonary embolism.  However, as the
   patient is s/p BMT and on immunosuppressives, he should be covered by
   broad spectrum antibiotics while cultures are pending.  Though he has
   mild neck/headache, the symptoms are typical for his previous headaches
   and not associated with neck stiffness..  Though on arrival to the
   floor the patient was somewhat somnolent, he has improved in the last
   few hours (change in mental status likely secondary to dilaudid in ER).
   As well the patientt has area on CT that is concerning for pneumonia
   and thus will cover for respiratory infection.
   - vanc, zosyn, azithromycin
   - serial cultures of blood, urine and sputum with fevers
   - AM CXR
   - follow initial cultures, will also send sputum cultures
   - will defer LP for now as no neck stiffness and improved mentation.
   If patient were to need LP, likely to be very complicated given
   patient
s significant back pain and previous surgeries
   2. Pulmonary embolism: the patient had pleuritic chest pain and
   dyspnea, found on prelim read of the CT to have PE in LLL.
   - heparin gtt
   - likely will need chronic anticoagulation
   - LENIs in AM
   .
   3.Hypotension: Unclear etiology but likely secondary to hypovolemia and
   poor PO intake.  Patient may have had preseptic physiology, but is now
   normotensive after 4L NS.  Will continue IVF, following urine output
   and mentation.
   - hold outpatient BP meds, lasix
   - IVF
   4. GHVD: Patient with baseline erythema from GVHD at baseline, per
   patient,
   - Currently on cyclosporin and prednisone
   - will check csa level in AM
   .
   5. AML: s/p unrelated allogenic transplant [**2142**] on
   cyclophosphamide
   - Continued outpatient prophylaxis - ACV, Bactrim and
   Voriconazole
   - check CSA level in AM
   .
   6. Diabetes: Continue outpatient dose of NPH, lispro ss.
   .
   7. Avascular necrosis of hips bilateral: Cause of pain and immobility
   at home.  Will eventually need surgical repair, but patient will need
   further evaluation as outpatient.
   - outpatient pain regimen
   .
   8. RUQ pain: Previous history of GVH of the liver, now with RUQ
   tenderness.  Was to have RUQ ultrasound as outpatient.  Will order
   today.
   - RUQ ultrasound
   .
   9. Elevated creat: Appears to be at baseline when compared to previous
   labs from [**11-10**].  [**Month (only) 60**] be slightly hypovolemic, but could also be
   secondary to diabetes.
   - repeat in AM
   - IV fluids
   .
   FEN: IVF, replete lytes prn, diabetic diet
   PPX: heparin gtt
   Access: PIV
   Comm: with patient and wife
   Full code
   ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2144-11-21**] 09:13 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2144-11-23 11:21:00 Physician Attending Progress Note
Chief Complaint: Pulmonary embolism, hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient continues on IV heparin; held briefly for high PTT.
   Hemodynamically stable. Echo being done now.
   O2 sats in 90's while using supplemental oxygen with 70% mask.
   Cultures negative.
   24 Hour Events:
                                                 History obtained from Patient
   Allergies:
   Cefepime
   Rash;
   Cipro (Oral) (Ciprofloxacin Hcl)
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2144-11-23**] 07:45 AM
   Acyclovir - [**2144-11-23**] 08:00 AM
   Azithromycin - [**2144-11-23**] 08:00 AM
   Bactrim (SMX/TMP) - [**2144-11-23**] 08:00 AM
   Voriconazole - [**2144-11-23**] 08:00 AM
   Vancomycin - [**2144-11-23**] 08:15 AM
   Infusions:
   Heparin Sodium - 925 units/hour
   Other ICU medications:
   Heparin Sodium - [**2144-11-23**] 05:23 AM
   Other medications:
   Prednisone, protonix, oxycontin, neurontin, folate, bactrim,
   cyclosporin, voriconazole, insulin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-11-23**] 11:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37
C (98.6
   HR: 118 (84 - 120) bpm
   BP: 125/66(81) {103/58(70) - 153/86(99)} mmHg
   RR: 19 (13 - 21) insp/min
   SpO2: 90%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 105 kg (admission): 105 kg
   Height: 72 Inch
             Total In:
                                                                  1,820 mL
                                                                    583 mL
   PO:
                                                                    100 mL
             TF:
   IVF:
                                                                  1,720 mL
                                                                    583 mL
   Blood products:
   Total out:
                                                                  2,870 mL
                                                                  1,100 mL
   Urine:
                                                                  2,870 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,050 mL
                                                                   -517 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 90%
   ABG: ///30/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, Distant, No(t) Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Crackles : , Wheezes : Intermittent, Rhonchorous:
   Coarse rhonchi bilaterally that largely clear with cough)
   Extremities: Right: 3+ edema, Left: 3+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, place and time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   11.6 g/dL
   105 K/uL
   102 mg/dL
   1.3 mg/dL
   30 mEq/L
   4.2 mEq/L
   12 mg/dL
   101 mEq/L
   138 mEq/L
   35.5 %
   4.5 K/uL
        [image002.jpg]
                             [**2144-11-22**]  07:10 AM
                             [**2144-11-23**]  03:54 AM
   WBC
   3.5
   4.5
   Hct
   34.8
   35.5
   Plt
   117
   105
   Cr
   1.2
   1.3
   Glucose
   99
   102
   Other labs: PT / PTT / INR:13.8/38.6/1.2, Ca++:8.7 mg/dL, Mg++:1.9
   mg/dL, PO4:3.0 mg/dL
   Imaging: CXR: density at left base.
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 PULMONARY EMBOLISM (PE), ACUTE
   HYPOXEMIA
   FEVER
   Patient continues on heparin for pulmonary embolism. LENI's pending to
   assess for clot burden given problems chronically with lower
   extremities. Has been hemodynamically stable. Variable oxygenation less
   likely to represent recurrent PE; more likely to be due to other
   factors, e.g., when he sleeps, snoring is evident and he may have OSA;
   mucus plug may be alternative cause for acute drops in oxygen
   saturations. Tachycardic this AM. Echo in process. Patient has been on
   lopressor as outpatient; consider restarting.
   Patient has been on broad spectrum antibiotics; cultures negative. CXR
   shows density at left base; may be due to atelectasis rather than
   infection. Pulmonary embolism can cause fever up to 101-102. Afebrile
   overnight.
   Continues on prophylactic antibiotics for bone marrow transplant.
   ICU Care
   Nutrition: Oral
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2144-11-21**] 09:13 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2144-11-24 07:24:00 Physician Resident Progress Note
Chief Complaint: Fever
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2144-11-23**] 11:00 AM
 ULTRASOUND - At [**2144-11-23**] 04:47 PM
   Pt transported to US in stretcher for BLE U/S, liver/abd US.
   -TTE showed LV function appears hyperdynamic, EF 75%
   -CXR [**11-23**]:
    The left basal opacities have slightly increased in the interim, most
   likely representing a combination of
   atelectasis and developing infarct given the presence of left lower
   lobe
   pulmonary embolism. The upper lungs are unremarkable. There is no
   appreciable pleural effusion or pneumothorax. No evidence of pulmonary
   edema
   is present.
   -RUQ U/S unremarkable on wet read.
   -LENI's showed no DVT.
   -Adding on RSV, viral cx's. Induced sputum ordered.
   -Starting CPAP
   -Switched to Lovenox from Heparin gtt
   Allergies:
   Cefepime
   Rash;
   Cipro (Oral) (Ciprofloxacin Hcl)
   Rash;
   Last dose of Antibiotics:
   Azithromycin - [**2144-11-23**] 08:00 AM
   Bactrim (SMX/TMP) - [**2144-11-23**] 08:00 AM
   Voriconazole - [**2144-11-23**] 08:00 AM
   Vancomycin - [**2144-11-23**] 07:25 PM
   Piperacillin/Tazobactam (Zosyn) - [**2144-11-23**] 11:46 PM
   Acyclovir - [**2144-11-23**] 11:46 PM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2144-11-23**] 06:30 PM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:  Still feels cold, generalized aches, pain [**4-25**].
   continued chest congestion, had difficulty with CPAP.
   Flowsheet Data as of  [**2144-11-24**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.1
C (97
   HR: 72 (69 - 120) bpm
   BP: 103/57(66) {97/55(62) - 144/86(93)} mmHg
   RR: 10 (9 - 19) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 105 kg (admission): 105 kg
   Height: 72 Inch
             Total In:
                                                                  3,065 mL
                                                                    546 mL
   PO:
                                                                  1,080 mL
             TF:
   IVF:
                                                                  1,985 mL
                                                                    546 mL
   Blood products:
   Total out:
                                                                  2,600 mL
                                                                    350 mL
   Urine:
                                                                  2,600 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    465 mL
                                                                    196 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95% on 3L
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PER sluggishly reactive
   Head, Ears, Nose, Throat: Normocephalic, MMdry
   Cardiovascular: RRR, S1/S2, no murmurs
   PULM: right basilar rales, course breath sounds throughout
   ABDM:  +bs, soft, non-tender to palpation, non-distended.
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Extremities:  2+, pedal/LE edema bilaterally.
   Skin:  Warm, diffuse erythema of lower extremities, face, torso
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   106 K/uL
   10.9 g/dL
   146 mg/dL
   1.0 mg/dL
   34 mEq/L
   3.9 mEq/L
   12 mg/dL
   103 mEq/L
   142 mEq/L
   33.8 %
   3.4 K/uL
        [image002.jpg]
                             [**2144-11-22**]  07:10 AM
                             [**2144-11-23**]  03:54 AM
                             [**2144-11-24**]  04:32 AM
   WBC
   3.5
   4.5
   3.4
   Hct
   34.8
   35.5
   33.8
   Plt
   117
   105
   106
   Cr
   1.2
   1.3
   1.0
   Glucose
   99
   102
   146
   Other labs: PT / PTT / INR:14.1/39.7/1.2, Ca++:8.6 mg/dL, Mg++:1.9
   mg/dL, PO4:1.9 mg/dL
   Microbiology: [**2144-11-23**] 7:29 pm SPUTUM
   Source: Expectorated.
   GRAM STAIN (Final [**2144-11-23**]):
   >25 PMNs and <10 epithelial  cells/100X field.
   2+   (1-5 per 1000X FIELD):   GRAM POSITIVE ROD(S).
   1+    (<1 per 1000X FIELD):   BUDDING YEAST.
   RESPIRATORY CULTURE (Preliminary):
   Immunoflourescent test for Pneumocystis jirovecii (carinii)
         (Preliminary):
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 PULMONARY EMBOLISM (PE), ACUTE
   54 yo M with AML s/p allo-BMT with chronic GVHD of liver, skin now with
   fever and pulmonary embolism.
   .
   1. Fever: afebrile.  CXR with LLL opacity.   Regarding causes of fever,
   PE infarct and pulmonary infection remain possible causes.  Pt has
   continued o2 requirement.  Currently on azithromycin, vanc and zosyn
   given his immunosupressed state.  Microbiology data pending; urine
   legionella negative. CXR unchanged. DFA for influenza negative.
   - wean O2
   - f/u cultures
   - continue antibiotics
   - chest PT
   -
   2. Pulmonary embolism:  LLL PE on CTA.  Recent persistant LE edema.
   Again, continued O2 requirement and desaturation when sleeping.
   Difficult PTT to maintain therapeutic. Increasing oxygen requirement
   concerning for worsening pe, but HD stable.
   - heparin gtt with goal ptt 70
   - LENIs planned for this AM to evaluate for clot burden
   - [**Month (only) 60**] require IVC filter
   - Plan to start coumadin in next 24
 48 hrs pending necessity of
   procedure
   - TTE for R heart strain
   - Will consider thrombolytics if HD unstable
   .
   3.Hypotension: resolved with 4L IV fluids.  Possibly due to poor PO
   intake but also concern for preseptic physiology.  Good urin output.
   -continue IVF, following urine output and mentation.
   - hold outpatient BP meds, lasix
   - Will restart Betablocker
 lopressor 25 po Bid with holding
   parameters
   4. GHVD: Patient with baseline erythema from GVHD at baseline, per
   patient,
   - Currently on cyclosporin and prednisone
   - csa level this AM
   .
   5. AML: s/p unrelated allogenic transplant [**2142**] on cyclophosphamide.
   BMT service aware.
   - Continued outpatient prophylaxis - ACV, Bactrim and Voriconazole
   - f/u BMT recs
   .
   6. Diabetes: Continue outpatient dose of NPH, lispro ss; adjust as
   needed
   .
   7. Avascular necrosis of hips bilateral/Back Pain: chronic; stable
   - outpatient pain regimen
   .
   8. RUQ pain: Previous history of GVH of the liver, now with RUQ
   tenderness.  LFTs stable on admission
   - RUQ ultrasound today
   .
   9. Elevated creat:  Resolved; likely elevated on admission due to
   slight hypovolemia
   - trend Cr
   ICU Care
   Nutrition:  Regular Diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2144-11-21**] 09:13 PM
   Prophylaxis:
   DVT: Boots, LMW Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:[**Hospital **]
 transfer to BMT when stable.

2144-11-24 11:21:00 Physician Attending Progress Note
Chief Complaint: Pulmonary embolism, AML/BMT
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Swtiched from IV heparin to lovanox. RUQ ultrasound negative on
   prelminiary interpretation.
   Afebrile
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2144-11-23**] 11:00 AM
 ULTRASOUND - At [**2144-11-23**] 04:47 PM
   Pt transported to US in stretcher for BLE U/S, liver/abd US.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Cefepime
   Rash;
   Cipro (Oral) (Ciprofloxacin Hcl)
   Rash;
   Last dose of Antibiotics:
   Azithromycin - [**2144-11-23**] 08:00 AM
   Bactrim (SMX/TMP) - [**2144-11-23**] 08:00 AM
   Voriconazole - [**2144-11-23**] 08:00 AM
   Vancomycin - [**2144-11-23**] 07:25 PM
   Acyclovir - [**2144-11-23**] 11:46 PM
   Piperacillin/Tazobactam (Zosyn) - [**2144-11-24**] 08:32 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2144-11-23**] 06:30 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-11-24**] 11:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.9
C (96.7
   HR: 114 (69 - 114) bpm
   BP: 117/62(74) {97/54(62) - 125/86(91)} mmHg
   RR: 18 (9 - 18) insp/min
   SpO2: 87%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 105 kg (admission): 105 kg
   Height: 72 Inch
             Total In:
                                                                  3,065 mL
                                                                    922 mL
   PO:
                                                                  1,080 mL
             TF:
   IVF:
                                                                  1,985 mL
                                                                    922 mL
   Blood products:
   Total out:
                                                                  2,600 mL
                                                                  1,075 mL
   Urine:
                                                                  2,600 mL
                                                                  1,075 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    465 mL
                                                                   -153 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 87%
   ABG: ///34/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, Distant, No(t) Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic), Very soft heart sounds largely obscured by breath sounds
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Crackles : , Wheezes : , No(t) Diminished: , No(t) Absent : ,
   Rhonchorous: ), Diffuse coarse rales and rhonchi, expiratory wheeze and
   prolonged exhalation
   Abdominal: Soft, No(t) Non-tender, Tender: RUQ
   Extremities: Right: 3+ edema, Left: 3+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, place, time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   10.9 g/dL
   106 K/uL
   146 mg/dL
   1.0 mg/dL
   34 mEq/L
   3.9 mEq/L
   12 mg/dL
   103 mEq/L
   142 mEq/L
   33.8 %
   3.4 K/uL
        [image002.jpg]
                             [**2144-11-22**]  07:10 AM
                             [**2144-11-23**]  03:54 AM
                             [**2144-11-24**]  04:32 AM
   WBC
   3.5
   4.5
   3.4
   Hct
   34.8
   35.5
   33.8
   Plt
   117
   105
   106
   Cr
   1.2
   1.3
   1.0
   Glucose
   99
   102
   146
   Other labs: PT / PTT / INR:14.1/39.7/1.2, Differential-Neuts:71.0 %,
   Band:2.0 %, Lymph:15.0 %, Mono:9.0 %, Eos:1.0 %, Ca++:8.6 mg/dL,
   Mg++:1.9 mg/dL, PO4:1.9 mg/dL
   Imaging: CXR: improved density at left base
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 PULMONARY EMBOLISM (PE), ACUTE
   ANEMIA
   HYPOXEMIA
   Patient looks and feels a bit better this AM. Oxygenation remains
   marginal; chest exam more congested today. On LMWH for his PE.
   Initiate chest PT and get patient out of bed to facilitate clearance of
   secretions. Would consider beginning a lasix infusion to assist with
   total body volume overload if pressure remains marginal. Aim for
   negative fluid balance today. Completing course of antibiotics.
   Hct stable. Not at transfusion threshold.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2144-11-21**] 09:13 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes
   Patient is critically ill

2144-11-25 07:00:00 Physician Resident Progress Note
Chief Complaint: Shortness of breath
   24 Hour Events:
   -Induced sputum [**11-24**] with 3+  GRAM POSITIVE COCCI. IN PAIRS, CHAINS,
   AND CLUSTERS. 2+  BUDDING YEAST. NEGATIVE for Pneumocystis jirovecii
   (carinii).
   -[**11-22**] Respiratory Viral Culture: with RESPIRATORY SYNCYTIAL VIRUS (RSV)
   LIKE CYTOPATHIC EFFECT.  CONFIRMED BY MONOCLONAL FLUORESCENT ANTIBODY.
   - On a lasix drip for most of the day for gentle diuresis.
   - fever to 101.6 after tylenol.
 FEVER - 101.6
F - [**2144-11-25**] 05:00 AM
   Allergies:
   Cefepime
   Rash;
   Cipro (Oral) (Ciprofloxacin Hcl)
   Rash;
   Last dose of Antibiotics:
   Azithromycin - [**2144-11-23**] 08:00 AM
   Bactrim (SMX/TMP) - [**2144-11-23**] 08:00 AM
   Voriconazole - [**2144-11-23**] 08:00 AM
   Acyclovir - [**2144-11-23**] 11:46 PM
   Piperacillin/Tazobactam (Zosyn) - [**2144-11-24**] 08:32 AM
   Vancomycin - [**2144-11-24**] 08:00 PM
   Piperacillin - [**2144-11-25**] 12:23 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2144-11-25**] 06:04 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Denies SOB, cough. + CP. Mild RUQ pain.
   Flowsheet Data as of  [**2144-11-25**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 38.7
C (101.6
   HR: 106 (68 - 114) bpm
   BP: 139/73(90) {90/54(65) - 144/90(98)} mmHg
   RR: 24 (12 - 24) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 105 kg (admission): 105 kg
   Height: 72 Inch
             Total In:
                                                                  1,813 mL
                                                                    253 mL
   PO:
                                                                    400 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  1,413 mL
                                                                    193 mL
   Blood products:
   Total out:
                                                                  2,525 mL
                                                                    950 mL
   Urine:
                                                                  2,525 mL
                                                                    950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -712 mL
                                                                   -697 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///34/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PER sluggishly reactive
   Head, Ears, Nose, Throat: Normocephalic, MMdry
   Cardiovascular: RRR, S1/S2, no murmurs
   PULM: right basilar rales, course breath sounds throughout
   ABDM:  +bs, soft, non-tender to palpation, non-distended.
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Extremities:  2+, pedal/LE edema bilaterally.
   Skin:  Warm, diffuse erythema of lower extremities, face, torso
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   110 K/uL
   11.3 g/dL
   140 mg/dL
   1.0 mg/dL
   34 mEq/L
   4.6 mEq/L
   11 mg/dL
   100 mEq/L
   140 mEq/L
   34.0 %
   4.1 K/uL
        [image002.jpg]
                             [**2144-11-22**]  07:10 AM
                             [**2144-11-23**]  03:54 AM
                             [**2144-11-24**]  04:32 AM
                             [**2144-11-24**]  11:02 PM
                            [**2144-11-25**]  03:38 AM
   WBC
   3.5
   4.5
   3.4
   4.1
   Hct
   34.8
   35.5
   33.8
   34.0
   Plt
   117
   105
   106
   110
   Cr
   1.2
   1.3
   1.0
   0.9
   1.0
   Glucose
   99
   102
   146
   196
   140
   Other labs: PT / PTT / INR:13.3/35.7/1.1, Differential-Neuts:71.0 %,
   Band:2.0 %, Lymph:15.0 %, Mono:9.0 %, Eos:1.0 %, Ca++:8.4 mg/dL,
   Mg++:1.8 mg/dL, PO4:1.5 mg/dL
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 PULMONARY EMBOLISM (PE), ACUTE
   54 yo M with AML s/p allo-BMT with chronic GVHD of liver, skin now with
   fever and pulmonary embolism.
   .
   1. Fever/Pna: afebrile.  CXR with LLL opacity.   Regarding causes of
   fever, PE infarct and pulmonary infection remain possible causes.   Pt
   has continued o2 requirement. Micro data significant for GPCs in
   sputum, which could potentially be S Pneumo. Also RSV positive from
   [**11-22**]. Urine legionella negative. DFA for influenza negative.
   - Continue Vanco/Zosyn ([**11-22**] - )
   - Continue Palivisumab ([**11-24**] - ) per BMT and ID
   - f/u cultures
   - f/u viral studies
   - chest PT
   -
   2. Pulmonary embolism:  LLL PE on CTA.  Recent persistant LE edema.
   Again, continued O2 requirement and desaturation when sleeping.
   Increasing oxygen requirement concerning for worsening pe, but HD
   stable. LENIs negative.
   - Continue Lovenox [**Hospital1 **] per BMT
   - Will consider thrombolytics if HD unstable
   .
   3.Hypotension: Fluid responsive.  Good urine output. But now appears
   mildly volume overloaded. Tolerated Lasix gtt for most of the day
   yesterday, but was mildly hypotensive at night, so it was stopped.
   - hold outpatient BP meds for now
   4. GHVD: Patient with baseline erythema from GVHD at baseline, per
   patient,
   - Currently on cyclosporin and prednisone
   .
   5. AML: s/p unrelated allogenic transplant [**2142**] on cyclophosphamide.
   BMT service aware.
   - Continued outpatient prophylaxis - ACV, Bactrim and Voriconazole
   - f/u BMT recs
   .
   6. Diabetes: Continue outpatient dose of NPH, lispro ss; adjust as
   needed
   .
   7. Avascular necrosis of hips bilateral/Back Pain: chronic; stable
   - outpatient pain regimen
   .
   8. RUQ pain: Previous history of GVH of the liver. LFTs stable, RUQ
   ultrasound unremarkable
   - continue to monitor
   .
   9. Elevated creat:  Resolved; likely elevated on admission due to
   slight hypovolemia
   - trend Cr
   .
   10. OSA:  Continue to encourage CPAP. Continue O2 as needed at night to
   maintain saturations > 88%.
   .
   11. FEN: regular diet, replete lytes, i/o goal
 -1 L
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2144-11-21**] 09:13 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2144-11-25 12:03:00 Physician Attending Progress Note
Chief Complaint: Pulmonary embolism, fever, pneumonia
   HPI:
   Fever to 101.6 this AM. Diuresed with lasix infusion most of yesterday.
   Lasix stopped when BP dropped.
   Started on acyclovir for RSV.
   24 Hour Events:
 BLOOD CULTURED - At [**2144-11-25**] 05:32 AM
 FEVER - 101.6
F - [**2144-11-25**] 05:00 AM
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Cefepime
   Rash;
   Cipro (Oral) (Ciprofloxacin Hcl)
   Rash;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2144-11-23**] 08:00 AM
   Azithromycin - [**2144-11-23**] 08:00 AM
   Voriconazole - [**2144-11-23**] 08:00 AM
   Acyclovir - [**2144-11-23**] 11:46 PM
   Piperacillin/Tazobactam (Zosyn) - [**2144-11-24**] 08:32 AM
   Piperacillin - [**2144-11-25**] 08:00 AM
   Vancomycin - [**2144-11-25**] 08:30 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2144-11-25**] 06:04 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-11-25**] 12:02 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 38.7
C (101.7
   HR: 125 (68 - 125) bpm
   BP: 121/83(87) {97/56(65) - 144/90(98)} mmHg
   RR: 15 (12 - 24) insp/min
   SpO2: 89%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 105 kg (admission): 105 kg
   Height: 72 Inch
             Total In:
                                                                  1,813 mL
                                                                    720 mL
   PO:
                                                                    400 mL
                                                                    180 mL
   TF:
   IVF:
                                                                  1,413 mL
                                                                    540 mL
   Blood products:
   Total out:
                                                                  2,525 mL
                                                                  1,450 mL
   Urine:
                                                                  2,525 mL
                                                                  1,450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -712 mL
                                                                   -730 mL
   Respiratory support
   O2 Delivery Device: Venti mask
   SpO2: 89%
   ABG: ///34/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, Distant, No(t) Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Wheezes : , Rhonchorous: Scattered rhonchi), Prolonged
   expiratory phase
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 2+ edema, Left: 2+
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   11.3 g/dL
   110 K/uL
   140 mg/dL
   1.0 mg/dL
   34 mEq/L
   4.6 mEq/L
   11 mg/dL
   100 mEq/L
   140 mEq/L
   34.0 %
   4.1 K/uL
        [image002.jpg]
                             [**2144-11-22**]  07:10 AM
                             [**2144-11-23**]  03:54 AM
                             [**2144-11-24**]  04:32 AM
                             [**2144-11-24**]  11:02 PM
                            [**2144-11-25**]  03:38 AM
   WBC
   3.5
   4.5
   3.4
   4.1
   Hct
   34.8
   35.5
   33.8
   34.0
   Plt
   117
   105
   106
   110
   Cr
   1.2
   1.3
   1.0
   0.9
   1.0
   Glucose
   99
   102
   146
   196
   140
   Other labs: PT / PTT / INR:13.3/35.7/1.1, Differential-Neuts:71.0 %,
   Band:2.0 %, Lymph:15.0 %, Mono:9.0 %, Eos:1.0 %, Ca++:8.4 mg/dL,
   Mg++:1.8 mg/dL, PO4:1.5 mg/dL
   Imaging: CXR: RLL infiltrate slightly larger compared to yesterday.
   Persistent diffuse increase in intersitital markings.
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 PULMONARY EMBOLISM (PE), ACUTE
   PNEUMONIA
   OSA
   Patient a bit more SOB and hypoxemic this AM. CXR suggests combination
   of interstitial edema, related to volume overload, and focal opacity at
   right base. Resume IV lasix today and aim for negative fliud balance.
   Antibiotics broadened to include viral coverage.
   Continues on LMWH for PE.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2144-11-21**] 09:13 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2144-11-26 07:02:00 Physician Resident Progress Note
Chief Complaint: Fevers, Shortness of breath
   24 Hour Events:
 FEVER - 101.7
F - [**2144-11-25**] 08:00 AM
   - Received lasix 20 iv x1 in am
   - I/O - -700 cc at 1400 ; -1.2 L at 2130; -80 cc since mn @ 0400
   - BMT - repeat Palivuzimab 7.5 mg/kg to complete total of 15 mg/kg
   dose, would add ribavirin if decompensates,
     continue antibx
   - Cx data - repeat b and u cx [**11-25**] - ngtd
   - Afebrile after 0800
   - O2 weaned to 4l NC
   Allergies:
   Cefepime
   Rash;
   Cipro (Oral) (Ciprofloxacin Hcl)
   Rash;
   Last dose of Antibiotics:
   Azithromycin - [**2144-11-23**] 08:00 AM
   Bactrim (SMX/TMP) - [**2144-11-23**] 08:00 AM
   Voriconazole - [**2144-11-23**] 08:00 AM
   Acyclovir - [**2144-11-23**] 11:46 PM
   Piperacillin/Tazobactam (Zosyn) - [**2144-11-24**] 08:32 AM
   Vancomycin - [**2144-11-25**] 08:56 PM
   Piperacillin - [**2144-11-26**] 12:30 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2144-11-26**] 06:00 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:  Still feels wheezy, chills resolved, pain at
   baseline. Did not use CPAP due to discomfort.
   Flowsheet Data as of  [**2144-11-26**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 35.6
C (96
   HR: 89 (81 - 125) bpm
   BP: 129/95(103) {100/56(65) - 136/95(103)} mmHg
   RR: 12 (8 - 23) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 105 kg (admission): 105 kg
   Height: 72 Inch
             Total In:
                                                                  1,779 mL
                                                                    190 mL
   PO:
                                                                    800 mL
             TF:
   IVF:
                                                                    979 mL
                                                                    190 mL
   Blood products:
   Total out:
                                                                  3,175 mL
                                                                    250 mL
   Urine:
                                                                  3,175 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,396 mL
                                                                    -60 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PER sluggishly reactive
   Head, Ears, Nose, Throat: Normocephalic, MMM
   Cardiovascular: RRR, S1/S2, no murmurs
   PULM: prolonged expiratory phase with bilataeral wheeze and basilar
   rales
   ABDM:  +bs, soft, non-tender to palpation, non-distended.
   Extremities:  2+ distal pules; 2+ pitting LE edema bilaterally to knee
   Skin:  Warm, diffuse erythema of lower extremities, face, torso
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   113 K/uL
   11.2 g/dL
   120 mg/dL
   1.0 mg/dL
   34 mEq/L
   6.2 mEq/L
   13 mg/dL
   97 mEq/L
   138 mEq/L
   32.1 %
   4.4 K/uL
        [image002.jpg]
                             [**2144-11-22**]  07:10 AM
                             [**2144-11-23**]  03:54 AM
                             [**2144-11-24**]  04:32 AM
                             [**2144-11-24**]  11:02 PM
                            [**2144-11-25**]  03:38 AM
                            [**2144-11-26**]  03:00 AM
   WBC
   3.5
   4.5
   3.4
   4.1
   4.4
   Hct
   34.8
   35.5
   33.8
   34.0
   32.1
   Plt
   117
   105
   106
   110
   113
   Cr
   1.2
   1.3
   1.0
   0.9
   1.0
   1.0
   Glucose
   99
   102
   146
   196
   140
   120
   Other labs: PT / PTT / INR:14.1/49.1/1.2, Differential-Neuts:69.0 %,
   Band:3.0 %, Lymph:13.0 %, Mono:10.0 %, Eos:1.0 %, Ca++:8.5 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 PULMONARY EMBOLISM (PE), ACUTE
   54 yo M with AML s/p allo-BMT with chronic GVHD of liver, skin now with
   fever and pulmonary embolism.
   .
   1. Fever/Pna: afebrile.  CXR with LLL opacity.   Regarding causes of
   fever, PE infarct and pulmonary infection remain possible causes.   Pt
   has continued o2 requirement. Micro data significant for GPCs in
   sputum, which could potentially be S Pneumo. Also RSV positive from
   [**11-22**]. Urine legionella negative. DFA for influenza negative.
   - Continue Vanco/Zosyn ([**11-22**] - )
   - Continue Palivisumab ([**11-24**] - ) per BMT and ID
   - f/u cultures
   - f/u viral studies
   - chest PT
   -
   2. Pulmonary embolism:  LLL PE on CTA.  Recent persistant LE edema.
   Again, continued O2 requirement and desaturation when sleeping.
   Increasing oxygen requirement concerning for worsening pe, but HD
   stable. LENIs negative.
   - Continue Lovenox [**Hospital1 **] per BMT
   - Will consider thrombolytics if HD unstable
   .
   3.Hypotension:  Appears resolved.  BPs in 130s.   Pt has LE edema.
   - resume home BP meds; adjust dose as needed
   4. GHVD: Patient with baseline erythema from GVHD at baseline, per
   patient,
   - Currently on cyclosporin and prednisone
   .
   5. AML: s/p unrelated allogenic transplant [**2142**] on cyclophosphamide.
   BMT service aware.
   - Continued outpatient prophylaxis - ACV, Bactrim and Voriconazole
   - f/u BMT recs
   .
   6. Diabetes: Continue outpatient dose of NPH, lispro ss; adjust as
   needed
   .
   7. Avascular necrosis of hips bilateral/Back Pain: chronic; stable
   - outpatient pain regimen
   .
   8. RUQ pain: Previous history of GVH of the liver. LFTs stable, RUQ
   ultrasound unremarkable
   - continue to monitor
   .
   9. Elevated creat:  Resolved; likely elevated on admission due to
   slight hypovolemia
   - trend Cr
   .
   10. OSA:  Continue to encourage CPAP. Continue O2 as needed at night to
   maintain saturations > 88%.
   .
   11. FEN: regular diet, replete lytes, i/o goal
 -1 L
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2144-11-21**] 09:13 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2144-11-26 10:53:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress, pneumonia, hypoxemia, pulmonary
   embolism
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   O2 requirements improved. Last fever was 24 hours ago.
   Patient refused CPAP last night.
   Negative fluid balance yesterday with lasix.
   Potassium elevated today, but speciman hemolyzed.
   24 Hour Events:
 FEVER - 101.7
F - [**2144-11-25**] 08:00 AM
   History obtained from Patient
   Allergies:
   Cefepime
   Rash;
   Cipro (Oral) (Ciprofloxacin Hcl)
   Rash;
   Last dose of Antibiotics:
   Acyclovir - [**2144-11-23**] 11:46 PM
   Piperacillin - [**2144-11-26**] 12:30 AM
   Vancomycin - [**2144-11-26**] 07:25 AM
   Piperacillin/Tazobactam (Zosyn) - [**2144-11-26**] 08:20 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2144-11-26**] 06:00 AM
   Other medications:
   prednisone, protonix, oxycodone, neurontin, cyclosporin, zosyn, lovanox
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-11-26**] 10:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.6
C (97.8
   HR: 108 (81 - 125) bpm
   BP: 105/78(83) {105/61(74) - 136/95(103)} mmHg
   RR: 12 (8 - 17) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 105 kg (admission): 105 kg
   Height: 72 Inch
             Total In:
                                                                  1,779 mL
                                                                    584 mL
   PO:
                                                                    800 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    979 mL
                                                                    524 mL
   Blood products:
   Total out:
                                                                  3,175 mL
                                                                    250 mL
   Urine:
                                                                  3,175 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,396 mL
                                                                    334 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ///34/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic), Heart sounds largely obscured by breath sounds
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Crackles : , No(t) Bronchial: , Wheezes : , No(t) Diminished: ,
   No(t) Absent : , Rhonchorous: ), Diffuse wheezes with I/E=[**12-19**]; coarse
   rales and rhonchi that improve with cough
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: 2+ edema, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   11.2 g/dL
   113 K/uL
   120 mg/dL
   1.0 mg/dL
   34 mEq/L
   6.2 mEq/L
   13 mg/dL
   97 mEq/L
   138 mEq/L
   32.1 %
   4.4 K/uL
        [image002.jpg]
                             [**2144-11-22**]  07:10 AM
                             [**2144-11-23**]  03:54 AM
                             [**2144-11-24**]  04:32 AM
                             [**2144-11-24**]  11:02 PM
                            [**2144-11-25**]  03:38 AM
                            [**2144-11-26**]  03:00 AM
   WBC
   3.5
   4.5
   3.4
   4.1
   4.4
   Hct
   34.8
   35.5
   33.8
   34.0
   32.1
   Plt
   117
   105
   106
   110
   113
   Cr
   1.2
   1.3
   1.0
   0.9
   1.0
   1.0
   Glucose
   99
   102
   146
   196
   140
   120
   Other labs: PT / PTT / INR:14.1/49.1/1.2, Differential-Neuts:69.0 %,
   Band:3.0 %, Lymph:13.0 %, Mono:10.0 %, Eos:1.0 %, Ca++:8.5 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.6 mg/dL
   Imaging: CXR: improved aeration at the bases, especially at the right.
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 PULMONARY EMBOLISM (PE), ACUTE
   RESPIRATORY DISTRESS
   HYPOXEMIA
   PNEUMONIA
   Patient improving with better oxygenation and less dyspnea. O2 sats
   drop with mucus plugs; improve with cough.
   Continues on antibiotics and LMWH for pneumonia and PE.
   Mlld anemia; no evidence of bleeding. No need for transfusion now.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2144-11-21**] 09:13 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2144-11-27 07:44:00 Physician Resident Progress Note
Chief Complaint: Fever, Shortness of breath
   24 Hour Events:
   Afebrile for 48 hours
   - unable to tolerate nasal mask CPAP overnight;  changed to full face
   mask (small), tol ~ 6 hours on with occ periods of apnea up to 6 sec,
   02 10 lpm bled in for sp02 92-97%
   -rx x2 with neb albuterol, audible exp wheeze unchanged with rx, thick
   white secretions
   - RSV nasal swab repeated
   Allergies:
   Cefepime
   Rash;
   Cipro (Oral) (Ciprofloxacin Hcl)
   Rash;
   Last dose of Antibiotics:
   Piperacillin - [**2144-11-26**] 12:30 AM
   Vancomycin - [**2144-11-26**] 08:28 PM
   Piperacillin/Tazobactam (Zosyn) - [**2144-11-27**] 12:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2144-11-26**] 12:00 PM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:  feels the same; has chest congestion.  No other
   complaint
   Flowsheet Data as of  [**2144-11-27**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.5
C (97.7
   HR: 95 (80 - 113) bpm
   BP: 120/79(88) {104/50(66) - 123/91(98)} mmHg
   RR: 11 (10 - 16) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 105 kg (admission): 105 kg
   Height: 72 Inch
             Total In:
                                                                  1,240 mL
                                                                    173 mL
   PO:
                                                                    280 mL
             TF:
   IVF:
                                                                    960 mL
                                                                    173 mL
   Blood products:
   Total out:
                                                                  1,800 mL
                                                                    300 mL
   Urine:
                                                                  1,800 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -560 mL
                                                                   -127 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 90%
   ABG: ///30/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   116 K/uL
   11.6 g/dL
   171 mg/dL
   1.0 mg/dL
   30 mEq/L
   4.9 mEq/L
   15 mg/dL
   100 mEq/L
   139 mEq/L
   34.4 %
   6.2 K/uL
        [image002.jpg]
                             [**2144-11-22**]  07:10 AM
                             [**2144-11-23**]  03:54 AM
                             [**2144-11-24**]  04:32 AM
                             [**2144-11-24**]  11:02 PM
                            [**2144-11-25**]  03:38 AM
                            [**2144-11-26**]  03:00 AM
                            [**2144-11-27**]  03:53 AM
   WBC
   3.5
   4.5
   3.4
   4.1
   4.4
   6.2
   Hct
   34.8
   35.5
   33.8
   34.0
   32.1
   34.4
   Plt
   117
   105
   106
   110
   113
   116
   Cr
   1.2
   1.3
   1.0
   0.9
   1.0
   1.0
   1.0
   Glucose
   99
   102
   146
   196
   140
   120
   171
   Other labs: PT / PTT / INR:14.1/49.1/1.2, Differential-Neuts:81.0 %,
   Band:0.0 %, Lymph:12.0 %, Mono:5.0 %, Eos:0.0 %, Ca++:8.5 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 PULMONARY EMBOLISM (PE), ACUTE
   54 yo M with AML s/p allo-BMT with chronic GVHD of liver, skin now with
   fever and pulmonary embolism.
   1. Fever/RSV: Afebrile for 48 hours.  CXR improved   Pt has continued
   o2 requirement but is stable at 4L.   Micro data is significant for
   GPCs and budding yeast in sputum; further results pending.
   - Continue Vanco/Zosyn ([**11-22**] - )
   - f/u cultures
   - f/u viral studies
   - chest PT
   - nebulizer treatments as needed
   - wean o2 as tolerated
   2. Pulmonary embolism:  LLL PE on CTA.  Pt has been hemodynamically
   stable.  No evidence of DVT.
   - Continue Lovenox [**Hospital1 **] per BMT
   .
   3. Hypotension:  Appears resolved.  BPs in 130s.   Pt has LE edema.
   - resume home BP meds; adjust dose as needed
   - 10mg lasix for gentle diuresis.
   4. GHVD: Stable erythema.
    - Currently on cyclosporin and prednisone
   .
   5. AML: s/p unrelated allogenic transplant [**2142**] on cyclophosphamide.
   - Continued outpatient prophylaxis - ACV, Bactrim and Voriconazole
   - f/u BMT recs
   .
   6. Diabetes: Continue outpatient dose of NPH, lispro ss; adjust as
   needed
   .
   7. Avascular necrosis of hips bilateral/Back Pain: chronic; stable
   - outpatient pain regimen
   .
   8. RUQ pain: stable
   - continue to monitor
   .
   10. OSA:  Pt refused.  Continue to encourage CPAP. Continue O2 as
   needed at night to maintain saturations > 88%.
   .
   11. FEN: regular diet, replete lytes
   ICU Care
   Nutrition:
   Comments: Regular Diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2144-11-26**] 12:06 PM
   18 Gauge - [**2144-11-27**] 04:26 AM
   Prophylaxis:
   DVT: Boots, LMW Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ? Transfer to floor ?

2144-11-27 10:24:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress, pneumonia, hypoxemia, anemia,
   pulmonary embolism.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   AFebrile for 48 hours. Slept with full face mask/CPAP. Oxygenation
   stable.
   24 Hour Events:
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Cefepime
   Rash;
   Cipro (Oral) (Ciprofloxacin Hcl)
   Rash;
   Last dose of Antibiotics:
   Piperacillin - [**2144-11-26**] 12:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2144-11-27**] 12:00 AM
   Vancomycin - [**2144-11-27**] 09:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2144-11-26**] 12:00 PM
   Other medications:
   prednisone, protonix, oxycodone, neurontin, folic acid, acyclovir,
   bactrim, testosterone patch, insulin, lovanox, albuterol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-11-27**] 10:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 87 (80 - 113) bpm
   BP: 123/73(85) {104/50(66) - 130/91(98)} mmHg
   RR: 10 (10 - 16) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 105 kg (admission): 105 kg
   Height: 72 Inch
             Total In:
                                                                  1,240 mL
                                                                    398 mL
   PO:
                                                                    280 mL
             TF:
   IVF:
                                                                    960 mL
                                                                    398 mL
   Blood products:
   Total out:
                                                                  1,800 mL
                                                                    300 mL
   Urine:
                                                                  1,800 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -560 mL
                                                                     98 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ///30/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Loud, No(t) Widely split , No(t) Fixed),
   No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : on right), (Breath Sounds: No(t) Clear : ,
   Crackles : Coarse rales, No(t) Bronchial: , Wheezes : Diffuse
   expiratory wheezes with prolonged expiration I/E=[**12-19**], No(t) Diminished:
   , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: 1+ edema, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   11.6 g/dL
   116 K/uL
   138
   1.0 mg/dL
   30 mEq/L
   4.9 mEq/L
   15 mg/dL
   100 mEq/L
   139 mEq/L
   34.4 %
   6.2 K/uL
        [image002.jpg]
                             [**2144-11-22**]  07:10 AM
                             [**2144-11-23**]  03:54 AM
                             [**2144-11-24**]  04:32 AM
                             [**2144-11-24**]  11:02 PM
                            [**2144-11-25**]  03:38 AM
                            [**2144-11-26**]  03:00 AM
                            [**2144-11-27**]  03:53 AM
                            [**2144-11-27**]  09:00 AM
   WBC
   3.5
   4.5
   3.4
   4.1
   4.4
   6.2
   Hct
   34.8
   35.5
   33.8
   34.0
   32.1
   34.4
   Plt
   117
   105
   106
   110
   113
   116
   Cr
   1.2
   1.3
   1.0
   0.9
   1.0
   1.0
   1.0
   Glucose
   99
   102
   146
   196
   140
   120
   171
   138
   Other labs: PT / PTT / INR:14.1/49.1/1.2, Differential-Neuts:81.0 %,
   Band:0.0 %, Lymph:12.0 %, Mono:5.0 %, Eos:0.0 %, Ca++:8.5 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.1 mg/dL
   Imaging: CXR: significant improvement in basilar infiltrates.
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 PULMONARY EMBOLISM (PE), ACUTE
   PNEUMONIA
   RESPIRATORY DISTRESS
   ANEMIA
   Patient gradually improving. Achieved negative fluid balance yesterday.
   Oxygenation stable although still requires supplemental oxygen via
   nasal cannula. AFebrile on antibiotics; WBC normal.
   Has been hemodynamically stable. Continue gradual diuresis.
   Continues on LMWH for pulmonary embolism.
   Hct stable. No evidence of bleeding. Not at transfusion threshold.
   ICU Care
   Nutrition: Oral
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2144-11-26**] 12:06 PM
   18 Gauge - [**2144-11-27**] 04:26 AM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes